US09371320B2
A-1) 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)imidazolidin-2-one
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.05 g) and triethylamine (1.34 mL) in THF (20 mL) was added 1-chloro-2-isocyanatoethane (0.409 mL) at 0° C., and the mixture was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a powder. A mixture of the obtained powder and potassium tert-butoxide (1.08 g) in THF (20 mL) was stirred overnight at room temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was crystallized from ethyl acetate and diisopropyl ether to give the title compound (0.98 g).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.05 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | triethylamine | 1.34 mL | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-2-isocyanatoethane | 0.409 mL | ClCCN=C=O | C3H4ClNO
reactant | potassium tert-butoxide | 1.08 g | CC(C)([O-])C.[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)imidazolidin-2-one | 0.98 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1C(NCC1)=O)C | C15H21BN2O3
